US08026234B2
Compound 28: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluorobenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methylpiperidin-4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44-1.74 (m, 11H) 1.86-2.09 (m, 5H) 2.15 (s, 3H) 2.63-2.81 (m, 2H) 3.57-3.79 (m, 1H) 3.94-4.16 (m, 2H) 4.81 (t, J=8.1 Hz, 1H) 7.32-7.46 (m, 1H) 7.51 (t, J=8.6 Hz, 1H) 7.85 (br. s., 1H) 7.88 (dd, J=4.3, 2.3 Hz, 1H) 8.30 (s, 1H) 9.88 (s, 1H). [M+H] calc'd for C26H32F3N7O2, 532. found 532.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluorobenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2)F | C20H20F3N5O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylpiperidin-4-amine | CN1CCC(CC1)N | C6H14N2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CCN(CC1)C)C=C2)F | C26H32F3N7O2
